US06329370B1
4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-1,2-dihydro-phthalazine (Compound 7)
A suspension of 1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine (23.5 g, 73.4 mmoles), prepared as described in example 5, and PtO2 hydrate (0.5 g, 2.2 mmoles) in THF (600 ml) was put in a hydrogenator at room temperature and 2 atmospheres. After 22 hours the mixture was filtered over celite and brought to dryness to give 23.8 g of the title compound (stoichiometric yield). m.p.: 181-183° C.

reactant | 1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine | 73.4 mmoles, 23.5 g | ClC=1C=NC=C(C1CC1=NN=CC2=CC(=CC=C12)OC)Cl | C15H11Cl2N3O
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | 4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-1,2-dihydro-phthalazine | 23.8 g | ClC=1C=NC=C(C1CC1=NNCC2=CC(=CC=C12)OC)Cl | C15H13Cl2N3O
